US08168658B2
To a solution of tert-butyl 4-(1-cyano-2-methoxy-2-oxoethyl)benzoate (3.51 g, 12.8 mmol) in MeOH (120 mL) were added concentrated HCl (2.0 mL) and Pd/C (10% wt, 850 mg). An H2 balloon was attached, and after evacuating and filling with H2 three times, the reaction was stirred at room temperature for 24 h. The black solution was then filtered through Celite and evaporated to give tert-butyl 4-[1-(aminomethyl)-2-methoxy-2-oxoethyl]benzoate hydrochloride as an off-white powder that was carried on without further purification. MS (ESI) calcd [M+H]+ 280.1, found 280.1.

reactant | tert-butyl 4-(1-cyano-2-methoxy-2-oxoethyl)benzoate | 12.8 mmol, 3.51 g | C(#N)C(C(=O)OC)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C15H17NO4
reactant | HCl | 2.0 mL | Cl | ClH
solvent | MeOH | 120 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | tert-butyl 4-[1-(aminomethyl)-2-methoxy-2-oxoethyl]benzoate hydrochloride | Cl.NCC(C(=O)OC)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | InChI=1S/C15H21NO4.ClH/c1-15(2,3)20-13(17)11-7-5-10(6-8-11)12(9-16)14(18)19-4;/h5-8,12H,9,16H2,1-4H3;1H
